US04776929
604 g of dimethyl carbonate, 394 g of trimethylamine and 250 g of water were introduced in a 3,000-milliliter Tefron-lined reactor and heated with stirring. After the temperature in the reactor reached 100° C., the reaction was continued for 6 hours at 100° C. Tetramethylammonium hydrogencarbonate was obtained in a yield of 90.1 mol % (based on trimethylamine).

reactant | dimethyl carbonate | 604 g | C(OC)(OC)=O | C3H6O3
reactant | trimethylamine | 394 g | CN(C)C | C3H9N
solvent | water | 250 g | O | H2O
product | Tetramethylammonium hydrogencarbonate | C(O)([O-])=O.C[N+](C)(C)C | InChI=1S/C4H12N.CH2O3/c1-5(2,3)4;2-1(3)4/h1-4H3;(H2,2,3,4)/q+1;/p-1
